US06911468B2
(1) 1-[2-(4-Bromophenyl)ethyl]-2-(4-methoxyphenyl)-5-methyl-1H-pyrrole
A solution of 1-(4-methoxyphenyl)-1,4-pentanedione (3.20 g, 15.5 mol), 2-(4-bromophenyl)ethylamine (3.74 g, 18.7 mmol) and p-toluenesulfonic acid monohydrate (150 mg, 0.871 mmol) in toluene (100 ml) was refluxed for 20 hours with heating. The insoluble matter was filtered out and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=8:1) to give the object compound as an oily substance. 3.93 g (yield: 68.0%)

reactant | 1-(4-methoxyphenyl)-1,4-pentanedione | 15.5 mol, 3.20 g | COC1=CC=C(C=C1)C(CCC(C)=O)=O | C12H14O3
reactant | 2-(4-bromophenyl)ethylamine | 18.7 mmol, 3.74 g | BrC1=CC=C(C=C1)CCN | C8H10BrN
reactant | p-toluenesulfonic acid monohydrate | 0.871 mmol, 150 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(4-Bromophenyl)ethyl]-2-(4-methoxyphenyl)-5-methyl-1H-pyrrole | yield: 68.0% | BrC1=CC=C(C=C1)CCN1C(=CC=C1C)C1=CC=C(C=C1)OC | C20H20BrNO
